US04647588
A mixture of 2-amino-6-nitrobenzoic acid (11.9 g, 65.3 mmol), methyl p-toluenesulfonate (15.1 g, 81.1 mmol) and triethylamine (6.60 g, 65.3 mmol) in DMF (170 ml) was stirred under N2 at 60° for 18 hours. After removing DMF at 60° and 0.2 mm pressure, the residue was dissolved in ETOAc and washed with a saturated solution of NaHCO3 followed by a saturated aqueous solution of NaCl. The EtOAc extract was dried (Na2SO4), filtered and concentrated under reduced pressure. Flash chromatography over silica gel and elution with 50% toluene-50% CHCl3 gave methyl 2-amino-6-nitrobenzoate (7.6 g, 59.4%), m.p. 105°-107°.

reactant | 2-amino-6-nitrobenzoic acid | 65.3 mmol, 11.9 g | NC1=C(C(=O)O)C(=CC=C1)[N+](=O)[O-] | C7H6N2O4
reactant | methyl p-toluenesulfonate | 81.1 mmol, 15.1 g | C1(=CC=C(C=C1)S(=O)(=O)OC)C | C8H10O3S
reactant | triethylamine | 65.3 mmol, 6.60 g | C(C)N(CC)CC | C6H15N
solvent | DMF | 170 ml | CN(C)C=O | C3H7NO
product | methyl 2-amino-6-nitrobenzoate | 7.6 g, 59.4% | NC1=C(C(=O)OC)C(=CC=C1)[N+](=O)[O-] | C8H8N2O4
